US06133303
4-[6-(2-Imidazole-1-yl-ethoxy)-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidenemethyl]-benzoic acid
6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one (0.400 g, 1.56 mmol) was reacted with 4-formyl benzoic acid (0.351 g, 2.34 mmol) in 5.0 mL of 4% KOH in EtOH and 1 mL of dioxane at room temperature for 6 days. The reaction was diluted with minimal water to achieve complete solution and then extracted with DCM. The resulting aqueous solution was acidified to pH 2 with 1N HCl. After standing at room temperature for 3 weeks, 0.061 g (10%) of the title compound was isolated by filtration as a fine cream powder, nmp 267-267.5° C.: CI-MS m/e 388 (M+), 389 (M+ +1);

reactant | 6-(2-Imidazole-1-yl-ethoxy)-3,4-dihydro-2H-naphthalen-1-one | 1.56 mmol, 0.400 g | N1(C=NC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C15H16N2O2
reactant | 4-formyl benzoic acid | 2.34 mmol, 0.351 g | C(=O)C1=CC=C(C(=O)O)C=C1 | C8H6O3
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | KOH | 5.0 mL | [OH-].[K+]
solvent | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | 4-[6-(2-Imidazole-1-yl-ethoxy)-1-oxo-3,4-dihydro-1H-naphthalen-2-ylidenemethyl]-benzoic acid | 0.061 g, 10% | N1(C=NC=C1)CCOC=1C=C2CCC(C(C2=CC1)=O)=CC1=CC=C(C(=O)O)C=C1 | C23H20N2O4
